US08669252B2
(1R,2R)-2-(4-bromophenyl)-N-[1-(4-chlorophenyl)-2,2,2-trifluoroethyl]-4-oxocyclohexane-carboxamide
A solution of (1R,2R)-2-(4-bromophenyl)-4-oxo-cyclohexane-carboxylic acid (100 mg, 0.300 mmol), 1-(4-chlorophenyl)-2,2,2-trifluoro-ethanamine (the faster eluting enantiomer on AD-H chiral column using MeOH/SF CO2; 62.8 mg, 0.300 mmol) and HOBT (45.9 mg, 0.300 mmol) in CH2Cl2 (5 mL) was reacted with EDC (115 mg, 0.600 mmol) and DMAP (36.6 mg, 0.300 mmol). The reaction was aged at rt until it was complete. The mixture was concentrated and purified on a silica gel column by eluting with 0-50% EtOAc/hexanes to afford the title compound. HPLC/MS: 488.1/490.0 (M+1); Rt=1.19 min (LC-2).

reactant | (1R,2R)-2-(4-bromophenyl)-4-oxo-cyclohexane-carboxylic acid | 0.300 mmol, 100 mg | BrC1=CC=C(C=C1)[C@H]1[C@@H](CCC(C1)=O)C(=O)O | C13H13BrO3
reactant | 1-(4-chlorophenyl)-2,2,2-trifluoro-ethanamine | ClC1=CC=C(C=C1)C(C(F)(F)F)N | C8H7ClF3N
reactant | CO2 | C(=O)=O | CO2
reactant | HOBT | 0.300 mmol, 45.9 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.600 mmol, 115 mg
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.300 mmol, 36.6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeOH | CO | CH4O
product | (1R,2R)-2-(4-bromophenyl)-N-[1-(4-chlorophenyl)-2,2,2-trifluoroethyl]-4-oxocyclohexane-carboxamide | BrC1=CC=C(C=C1)[C@H]1[C@@H](CCC(C1)=O)C(=O)NC(C(F)(F)F)C1=CC=C(C=C1)Cl | C21H18BrClF3NO2
